US04508649
4(R)-t-butyldimethylsilyloxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-chloromethyl)-azetidin-2-one
A solution of 0.27 g of 4(R)-t-butyldimethylsilyloxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-hydroxymethyl)-azetidin-2-one in 3 ml of anhydrous tetrahydrofuran was cooled at 0° C. 0.045 ml of pyridine and 0.03 ml of thionyl chloride were added. After 10 minutes the mixture was filtered.

reactant | 4(R)-t-butyldimethylsilyloxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-hydroxymethyl)-azetidin-2-one | 0.27 g | [Si](C)(C)(C(C)(C)C)OCC(=O)S[C@@H]1[C@H](C(N1C(O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C30H37N3O13SSi
reactant | pyridine | 0.045 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.03 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4(R)-t-butyldimethylsilyloxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-chloromethyl)-azetidin-2-one | [Si](C)(C)(C(C)(C)C)OCC(=O)S[C@@H]1[C@H](C(N1C(Cl)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C30H36ClN3O12SSi
